US04771132
7 parts of sodium hydrogencarbonate was added to 50 parts of methanol. This mixture was cooled to 0° C. from outside. Then, 15 parts of cyanuric chloride was added to conduct a reaction for 60 minutes (First condensation). To the reaction mixture was added 100 parts of ice water, and the crystal precipitated was collected by filtration to obtain 2-methoxy-4,6-dichloro-1,3,5-triazine.

reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | methanol | CO | CH4O
product | 2-methoxy-4,6-dichloro-1,3,5-triazine | COC1=NC(=NC(=N1)Cl)Cl | C4H3Cl2N3O
